US05436257
5-[4-{2-[2-(3-Chlorophenyl)-2-hydroxyethylamino]propoxy}benzyl]thiazolidine-2,4-dione 1/2 ethyl acetate
A solution of 2.5 g of 2-amino-1-(3-chlorophenyl)ethanol [prepared as described in Preparation 7] and 3.58 g of 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione [prepared as described in Preparation 9] in 50 ml of benzene was heated under reflux for 1.5 hours, whilst the water being formed during the reaction was continuously removed. At the end of this time, the benzene used was removed by distillation under reduced pressure. The resulting residue was dissolved in 100 ml of absolute methanol, and then 3 g of sodium borohydride were added to the resulting solution. The reaction mixture was allowed to stand overnight at room temperature, after which it was concentrated by evaporation under reduced pressure, and the concentrate was mixed with water. The resulting aqueous mixture was extracted with ethyl acetate, and the extract was dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using ethyl acetate, followed by a 10:1 by volume mixture of ethyl acetate and ethanol, as the eluent. The product was recrystallized from ethyl acetate, to give 0.74 g of the title compound as crystals, melting at between 100° C. and 125° C.

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 2.5 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione | 3.58 g | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C13H13NO4S
reactant | water | O | H2O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-[4-{2-[2-(3-Chlorophenyl)-2-hydroxyethylamino]propoxy}benzyl]thiazolidine-2,4-dione | 0.74 g | ClC=1C=C(C=CC1)C(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C21H23ClN2O4S
